US08455475B2
2-(Pyridin-4-yl)-2,8-diazaspiro[5.5]undecane trihydrochloride (AMN-14)
The synthesis was carried out analogously to the synthesis of amine AMN-07. For this, in step (i) tert-butyl 2,8-diazaspiro[5.5]undecane-2-carboxylate was reacted with 4-chloropyridinium chloride (yield: 66%). The Boc protective group was then split off. In step (ii), ethanol (8 ml) and acetyl chloride (0.45 ml, 6.335 mmol) were added to tert-butyl 8-(pyridin-4-yl)-2,8-diazaspiro[5.5]undecane-2-carboxylate (0.42 g, 1.267 mmol) and the mixture was stirred at room temperature for 12 h. When the reaction was complete, the solvent was removed in vacuo. Yield: 0.39 g (90%)

reactant | acetyl chloride | 6.335 mmol, 0.45 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 8-(pyridin-4-yl)-2,8-diazaspiro[5.5]undecane-2-carboxylate | 1.267 mmol, 0.42 g | N1=CC=C(C=C1)N1CC2(CCCN(C2)C(=O)OC(C)(C)C)CCC1 | C19H29N3O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-(Pyridin-4-yl)-2,8-diazaspiro[5.5]undecane trihydrochloride | Cl.Cl.Cl.N1=CC=C(C=C1)N1CC2(CCC1)CNCCC2 | InChI=1S/C14H21N3.3ClH/c1-5-14(11-16-7-1)6-2-10-17(12-14)13-3-8-15-9-4-13;;;/h3-4,8-9,16H,1-2,5-7,10-12H2;3*1H
